US06566385B2
Step E: Preparation of 14-amino-14-(3-methyl-3H-imidazol-4-yl)-2-oxa-10-aza-tricyclo[13.3.1.13,7]eicosa-1(18),3,5,7(20),15(19),16-hexaene-18-carbonitrile
4-[1-Amino-4-[2-(3-hydroxy-phenyl)-ethylamino]-1-(3-methyl-3H-imidazol-4-yl)-butyl]-2-fluoro-benzonitrile (0.058 g, 0.142 mmol) was dissolved in DMF (15 mL) and treated with Cs2CO3 (0.324 g, 0.994 mmol). After 18 h at 60° C., the reaction mixture was concentrated in vacuo, dissolved in H2O: 0.1% TFA (3 mL) and purified by RP LC on a Delta PrepPak eluting with 95:5 to 5:95 H2O (0.1% TFA): CH3CN(0.1% TFA) to give the title compound as an 80:20 mixture of enantiomers.

reactant | 4-[1-Amino-4-[2-(3-hydroxy-phenyl)-ethylamino]-1-(3-methyl-3H-imidazol-4-yl)-butyl]-2-fluoro-benzonitrile | 0.142 mmol, 0.058 g | NC(CCCNCCC1=CC(=CC=C1)O)(C=1N(C=NC1)C)C1=CC(=C(C#N)C=C1)F | C23H26FN5O
reactant | Cs2CO3 | 0.994 mmol, 0.324 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 14-amino-14-(3-methyl-3H-imidazol-4-yl)-2-oxa-10-aza-tricyclo[13.3.1.13,7]eicosa-1(18),3,5,7(20),15(19),16-hexaene-18-carbonitrile | NC1(CCCNCCC=2C=CC=C(OC3=C(C=CC1=C3)C#N)C2)C=2N(C=NC2)C | C23H25N5O
